US03943114
Following the procedure of Example 1, 20.1 grams (0.1 mole) of N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide is reacted with 10 grams (0.14 mole) of pyrrolidine in the presence of 0.3 gram of platinum oxide and 100 ml. of methanol. When hydrogen uptake has ceased, the methanol is stripped and the product, N-(1,1-dimethyl-3-pyrrolidylbutyl)-3-methoxypropionamide, is isolated as described in Example 1.

reactant | N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide | 0.1 mole, 20.1 grams | CC(CC(C)=O)(C)NC(CCOC)=O | C10H19NO3
reactant | pyrrolidine | 0.14 mole, 10 grams | N1CCCC1 | C4H9N
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.3 gram | [Pt]=O
solvent | methanol | CO | CH4O
product | N-(1,1-dimethyl-3-pyrrolidylbutyl)-3-methoxypropionamide | CC(CC(C)N1CCCC1)(C)NC(CCOC)=O | C14H28N2O2
